US08283354B2
To a solution of (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)butan-1-one (300 mg, 0.73 mmol) in CH2Cl2 was added a 2 M HCl solution in ether (0.365 mL, 0.73 mmol), followed by the addition of ether until the salt precipitated out, which was stirred for an hour, collected by vacuum filtration and dried to afford (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)butan-1-one hydrochloride (270 mg, 84%). LC/MS: m/z 407.5 (M+H)+ at 2.31 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.26 (dd, J=7.9, 1.6 Hz, 1H), 8.07 (d, J=8.6 Hz, 1H), 7.73 (s, 1H), 7.47 (m, 2H), 7.03 (m, 2H), 4.26 (dd, J=7.7, 4.8 Hz, 1H), 4.08 (m, 4H), 3.79 (m, 4H), 2.53 (s, 3H), 1.65 (m, 1H), 1.50 (m, 1H), 0.89 (t, J=7.4 Hz, 3H).

reactant | (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)butan-1-one | 0.73 mmol, 300 mg | O[C@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC | C23H26N4O3
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.73 mmol, 0.365 mL | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)butan-1-one hydrochloride | 270 mg, 84% | Cl.O[C@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC | InChI=1S/C23H26N4O3.ClH/c1-3-19(28)23(30)27-12-10-26(11-13-27)22-16-9-8-15(2)14-18(16)24-21(25-22)17-6-4-5-7-20(17)29;/h4-9,14,19,28-29H,3,10-13H2,1-2H3;1H/t19-;/m0./s1
